US20010053776A1
9-(4-Methylthiazol-2-yl)-11-(pyridin-4-yl)-6,7-dihydro-5H-2,7a-diaza-dibenzo[a,c]cylohepten-8-one: Alternative Procedure I
Pyridine-4-boronic acid was added to a solution of trifluoromethanesulfonic acid 9-(4-methylthiazol-2-yl)-8-oxo-5,6,7,8-tetrahydro-2,7a-diazadibenzo[a,c]cyclohepten-11-yl ester (500 mg, 1.09 mmol) and potassium phosphate (400 mg, 1.88 mmol) in dry DMF (20 ml), and the solution degassed for 10 minutes. Tetrakis(triphenylphosphine)-palladium(0) (100 mg, 0.09 mmol) was added and the reaction mixture heated at 100° C. for 7 hours, poured into water (30 ml), extracted with EtOAc (2×30 ml), dried (MgSO4) and evaporated. The residue was purified by chromatography (5% MeOH/CH2Cl2) and the resulting solid triturated with Et2O to afford the title compound (137 mg, 36%).

reactant | Pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | trifluoromethanesulfonic acid 9-(4-methylthiazol-2-yl)-8-oxo-5,6,7,8-tetrahydro-2,7a-diazadibenzo[a,c]cyclohepten-11-yl ester | 1.09 mmol, 500 mg | CC=1N=C(SC1)C=1C(N2C(C3=C(CCC2)C=CN=C3)=C(C1)OS(=O)(=O)C(F)(F)F)=O | C18H14F3N3O4S2
reactant | potassium phosphate | 1.88 mmol, 400 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)-palladium(0) | 0.09 mmol, 100 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 9-(4-Methylthiazol-2-yl)-11-(pyridin-4-yl)-6,7-dihydro-5H-2,7a-diaza-dibenzo[a,c]cylohepten-8-one | 137 mg, 36% | CC=1N=C(SC1)C=1C(N2C(C3=C(CCC2)C=CN=C3)=C(C1)C1=CC=NC=C1)=O | C22H18N4OS
